US06350749B1
To a solution of 5-(2-methylphenyl)cyclohexane-1,3-dione (1.0 g), acetic acid (0.27 g) and dimethylaminopyridine (0.60 g) in dimethylformamide (45 ml) was added dicyclohexylcarbodiimide (1.0 g), and the mixture was stirred at room temperature for 12 hours. Under reduced pressure, the solvent was evaporated, and to the residue was added ethyl acetate. The organic layer was washed with potassium hydrogensulfate aqueous solution, and insoluble materials were filtered, to which was added 1N sodium hydroxide solution. The aqueous layer was neutralized with 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried with magnesium sulfate and concentrated under reduced pressure to give, the residue was recrystallized from ethyl acetate-hexane to give colorless crystals of 2-(1-hydroxyethylidene)-5-(2-methylphenyl)cyclohexane-1,3-dione (0.69 g).

reactant | 5-(2-methylphenyl)cyclohexane-1,3-dione | 1.0 g | CC1=C(C=CC=C1)C1CC(CC(C1)=O)=O | C13H14O2
reactant | acetic acid | 0.27 g | C(C)(=O)O | C2H4O2
reactant | dimethylaminopyridine | 0.60 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | dicyclohexylcarbodiimide | 1.0 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 45 ml | CN(C=O)C | C3H7NO
product | 2-(1-hydroxyethylidene)-5-(2-methylphenyl)cyclohexane-1,3-dione | 0.69 g | OC(C)=C1C(CC(CC1=O)C1=C(C=CC=C1)C)=O | C15H16O3
